US08633173B2
4-[2-(4-Methoxy-phenylamino)-[1,2,4]triazolo[1,5-a]pyridin-8-yl]-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester was prepared from (8-bromo-[1,2,4]triazolo[1,5-a]pyridin-2-yl)-(4-methoxy-phenyl)-amine (150.0 mg, 0.4700 mmol) and 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester (160.0 mg, 0.5174 mmol) with Pd(dppf)Cl2 (0.035 g) as the catalyst in a manner analogous to Step 19e. The reaction product was isolated as a clear viscous oil. 1H NMR (400 MHz, CDCl3, δ, ppm): 8.30 (dd, J=6.6, 1.0 Hz, 1H), 7.52-7.47 (m, 2H), 7.33-7.29 (m, 1H), 7.25-7.20 (m, 1H), 6.94-6.89 (m, 2H), 6.84 (dd, J=7.3, 7.3 Hz, 1H), 6.63 (s, 1H), 4.23-4.19 (m, 2H), 3.81 (s, 3H), 3.73-3.67 (m, 2H), 2.69-2.62 (m, 2H), 1.50 (s, 9H). MS=422 (MH)+.

reactant | (8-bromo-[1,2,4]triazolo[1,5-a]pyridin-2-yl)-(4-methoxy-phenyl)-amine | 0.4700 mmol, 150.0 mg | BrC=1C=2N(C=CC1)N=C(N2)NC2=CC=C(C=C2)OC | C13H11BrN4O
reactant | 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | 0.5174 mmol, 160.0 mg | C(C)(C)(C)OC(=O)N1CCC(=CC1)B1OC(C(O1)(C)C)(C)C | C16H28BNO4
catalyst | Pd(dppf)Cl2 | 0.035 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 4-[2-(4-Methoxy-phenylamino)-[1,2,4]triazolo[1,5-a]pyridin-8-yl]-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(=CC1)C=1C=2N(C=CC1)N=C(N2)NC2=CC=C(C=C2)OC | C23H27N5O3
